US06506797B1
5-Amino-2-methoxy-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide
2-Methoxy-5-nitro-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide (14.6 g, 41.2 mmol) and 146 ml of ethyl acetate were mixed and, after 10% palladium on activated carbon (2.6 g) was added, the mixture was stirred for 5 hours at room temperature. Catalyst was filtered, washed with ethyl acetate, and the reaction mixture was concentrated. The residue was recrystallized from a mixed solvent of n-hexane with ethyl acetate to obtain 12.4 g (93%) of the title compound as colorless crystals.

reactant | 2-Methoxy-5-nitro-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide | 41.2 mmol, 14.6 g | COC1=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=C(C=C1)[N+](=O)[O-] | C16H13F3N2O4
catalyst | palladium on activated carbon | 2.6 g | [Pd] | Pd
solvent | ethyl acetate | 146 ml | C(C)(=O)OCC | C4H8O2
product | 5-Amino-2-methoxy-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide | 12.4 g, 93% | NC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C16H15F3N2O2
